US05436257
5-(4-{2(R)-[2(R)-(3-Chlorophenyl)-2-hydroxyethylamino]-4-methylpentyloxy}benzyl)thiazolidine-2,4-dione
A procedure similar to that described in Preparation 4, above, was followed, but using 350 mg of 5-(4-{2(R)-[2(R)-(3-chlorophenyl)-2-t-butyldimethylsilyloxyethylamino]-4-methylpentyloxy}benzyl]thiazolidine-2,4 -dione [prepared as described in Preparation 18], 1,39 g of tetrabutyl ammonium fluoride and 10 ml of tetrahydrofuran to obtain the title compound in crude form. This crude product was then purified by column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 180 mg of the title compound, having an Rf=0.28 (thin layer chromatography on silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 5-(4-{2(R)-[2(R)-(3-chlorophenyl)-2-t-butyldimethylsilyloxyethylamino]-4-methylpentyloxy}benzyl]thiazolidine-2,4 -dione | 350 mg | ClC=1C=C(C=CC1)[C@H](CN[C@@H](COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)CC(C)C)O[Si](C)(C)C(C)(C)C | C30H43ClN2O4SSi
reactant | tetrabutyl ammonium fluoride | 1,39 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-{2(R)-[2(R)-(3-Chlorophenyl)-2-hydroxyethylamino]-4-methylpentyloxy}benzyl)thiazolidine-2,4-dione | ClC=1C=C(C=CC1)[C@H](CN[C@@H](COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)CC(C)C)O | C24H29ClN2O4S
